US06730684B1
a) Methyl 1-Methyl-1H-indazole-3-carboxylate
Indazole-3-carboxylic acid (5.0 g, 30 mmole), K2CO3 (12.4 g, 90 mmole), and MeI (9.3 mL, 150 mmole) were combined in dry DMF (100 mL) and heated to 50° C. After 18 hr the mixture was cooled to RT and concentrated in vacuo. The residue was taken up in EtOAc and filtered, and the filtrate was concentrated under reduced pressure. The residue was flash chromatographed on silica gel (25% EtOAc/hexanes) to give the title compound (3.88 g, 68%) as a yellow solid: 1H NMR (300 MHz, CDCl3) δ 8.24 (m, 1H), 7.47 (m, 2H), 7.34 (m, 1H), 4.19 (s, 3H), 4.05 (s, 3H).

reactant | Indazole-3-carboxylic acid | 30 mmole, 5.0 g | N1N=C(C2=CC=CC=C12)C(=O)O | C8H6N2O2
reactant | K2CO3 | 90 mmole, 12.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | MeI | 150 mmole, 9.3 mL | CI | CH3I
reactant | DMF | 100 mL | CN(C)C=O | C3H7NO
product | Methyl 1-Methyl-1H-indazole-3-carboxylate | 3.88 g, 68% | CN1N=C(C2=CC=CC=C12)C(=O)OC | C10H10N2O2
